US06897220B2
Step 1: 4-[(4Morpholin-4-yl-phenylamino)-methyl]-benzoic acid (402a).
A suspension of 4-formylbenzoic acid (2.53 g; 16.8 mmol; 1 eq), 4-morpholinoaniline (3 g; 16.8 mmol; 1 eq) and Bu2SnCl2 (510 mg; 1.68 mmol; 0.1 eq) in dry THF (20 ml) was treated with PhSiH3 (3.31 ml; 16.8 mmol; 1 eq) at room temperature for 12 h. The reaction was filtered and the solid product was washed with MeOH. The yield of the reaction was 5.25 g (99%). LRMS: calc 312.37. found: 313.2.

reactant | 4-formylbenzoic acid | 16.8 mmol, 2.53 g, 1 eq | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | 4-morpholinoaniline | 16.8 mmol, 3 g, 1 eq | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | Bu2SnCl2 | 1.68 mmol, 510 mg, 0.1 eq | [Sn](Cl)(Cl)(CCCC)CCCC
reactant | PhSiH3 | 16.8 mmol, 3.31 ml, 1 eq | C1(=CC=CC=C1)[SiH3] | C6H8Si
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-[(4Morpholin-4-yl-phenylamino)-methyl]-benzoic acid | N1(CCOCC1)C1=CC=C(C=C1)NCC1=CC=C(C(=O)O)C=C1 | C18H20N2O3
